US05834468
N-Ethyl-N-(2-nitrobenzyl)amine (4 g, 22 mmol) in ethanol (100 ml) was treated with 10% palladium-on-carbon (180 mg) and hydrogenated at N.T.P. for 2 hours. When uptake of hydrogen had ceased the reaction was filtered through Celite and evaporated to give N-ethyl-N-(2-aminobenzyl)amine (3.3 g, 100%).

reactant | N-Ethyl-N-(2-nitrobenzyl)amine | 22 mmol, 4 g | C(C)NCC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 180 mg | [Pd] | Pd
product | N-ethyl-N-(2-aminobenzyl)amine | 3.3 g, 100% | C(C)NCC1=C(C=CC=C1)N | C9H14N2
